US07714009B2
N7-Cyclopropylmethyl-N2-mesityl-1-methyl-N7-propyl-1H-benzimidazole-2,7-diamine
To 0.041 g (0.13 mmol) of N2-mesityl-1-methyl-N7-propyl-1H-benzimidazole-2,7-diamine in 2 mL of methanol was added 95 μL (1.3 mmol) of cyclopropane carboxaldehyde, 200 μL of glacial acetic acid and 0.032 g (0.51 mmol) of sodium cyanoborohydride. The mixture was stirred at room temperature for 24 h. The reaction mixture was cooled to room temperature and the volatiles were removed in vacuo. The crude solid was partitioned between saturated sodium bicarbonate and dichloromethane, the organic layer was separated, dried over sodium sulfate, filtered, concentrated and purified by reverse-phase HPLC to give 0.026 g (42%) of the title compound as a colorless sticky solid.

reactant | N2-mesityl-1-methyl-N7-propyl-1H-benzimidazole-2,7-diamine | 0.13 mmol, 0.041 g | C1(=C(C(=CC(=C1)C)C)NC1=NC2=C(N1C)C(=CC=C2)NCCC)C | C20H26N4
reactant | cyclopropane carboxaldehyde | 1.3 mmol, 95 μL | C1(CC1)C=O | C4H6O
reactant | acetic acid | 200 μL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 0.51 mmol, 0.032 g | C(#N)[BH3-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
product | N7-Cyclopropylmethyl-N2-mesityl-1-methyl-N7-propyl-1H-benzimidazole-2,7-diamine | 0.026 g, 42% | C1(CC1)CN(C1=CC=CC2=C1N(C(=N2)NC2=C(C=C(C=C2C)C)C)C)CCC | C24H32N4
